### PR TITLE
Add proofs from OpenAI Codex

### PR DESCRIPTION
**Pull request by wrsturgeon**
Hi all!

Long-time Rocq enthusiast and first-time Lean contributor here. This project is great, and I wanted to see if I could pitch in with off-the-shelf tools like OpenAI Codex. Each of these took <15 minutes using a custom MCP wrapping Mathlib search. I also asked Codex to clean up each of the proofs after it finished.

Summary from Codex:
- prove `E8Packing_numReps` by instantiating `PeriodicSpherePacking.numReps_eq_one`
- construct `coordinateEmbedding₁₂_fderiv` via `ContinuousLinearMap.smulRight` and use `ContinuousLinearMap.hasFDerivAt` along with `Function.HasTemperateGrowth.of_fderiv`
- show positivity of Delta on the imaginary axis using `Δ_ne_zero`

I've never manually written a compiling Lean proof before, so please bear with me as I adjust to the learning curve, and please let me know how the code could be improved.

### CODE REVIEW

File: SpherePacking/Basic/E8.lean
Comment (pitmonticone) [inline SpherePacking/Basic/E8.lean:1]: This file has been completely rewritten by @b-mehta in PR #119, which we will review and merge soon. Any changes to the previous version are therefore no longer needed, but thank you very much for taking the time to look into it!

File: SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean [hunk 1]
```diff
@@ -106,18 +106,34 @@ by
...
-  cont := by
-
-    sorry
-  map_add' := sorry
-  map_smul' := sorry
+def coordinateEmbedding₁₂_fderiv (_ : ℝ) : Euc(1) →L[ℝ] Euc(2) :=
+  -- Use the projection onto the unique coordinate and scale the fixed vector
+  ContinuousLinearMap.smulRight
+    (EuclideanSpace.proj (ι := Fin 1) (𝕜 := ℝ) 0 : Euc(1) →L[ℝ] ℝ)
+    (!₂[(0 : ℝ), 1] : Euc(2))
```
Comment (pitmonticone) [inline SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean:113]: All the `Prop`-valued attributes of this `def` have already been completed in PR #175 which will be reviewed and merged soon.

File: SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean [hunk 2]
```diff
@@ -106,18 +106,34 @@ by
...
 
 /-- The Jacobian of `coordinateEmbedding₁₂ x` is the constant `!₂[0, 1]`. -/
 theorem coordinateEmbedding₁₂_hasDerivAt (x : ℝ) (p : Euc(1)) :
```
Comment (pitmonticone) [inline SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean:116]: This theorem has already been proven in #175 which will be reviewed and merged soon.

File: SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean [hunk 3]
```diff
@@ -135,13 +151,28 @@ example {a b : ℝ} : 0 ≤ a → 0 ≤ b → (a ≤ b ↔ a ^ 2 ≤ b ^ 2) := b
 /-- `coordinateEmbedding₁₂` has temperate growth. -/
 theorem coordinateEmbedding₁₂_hasTemperateGrowth (x : ℝ) :
```
Comment (pitmonticone) [inline SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean:152]: This theorem has already been proven in #173 and #175.

File: SpherePacking/ModularForms/Delta.lean [hunk 4]
```diff
@@ -453,38 +453,10 @@ lemma Delta_im_line_im_part {t : ℝ} (ht : 0 < t) : (Delta ⟨(Complex.I * t),
...
-    norm_cast
-
-    sorry
+  have hne : Δ ⟨(Complex.I * t), by simp [ht]⟩ ≠ 0 := Δ_ne_zero ⟨(Complex.I * t), by simp [ht]⟩
+  have hne' : Delta ⟨(Complex.I * t), by simp [ht]⟩ ≠ 0 := by
+    change Δ ⟨(Complex.I * t), by simp [ht]⟩ ≠ 0
+    exact hne
+  have hpos : 0 < ‖Delta ⟨(Complex.I * t), by simp [ht]⟩‖ :=
+    norm_pos_iff.mpr hne'
+  exact hpos
```
Comment (pitmonticone) [inline SpherePacking/ModularForms/Delta.lean:462]: This proof can be simply reduced to 
```suggestion
  exact norm_pos_iff.mpr <| Δ_ne_zero ⟨Complex.I * t, by simp [ht]⟩
```

Comment (seewoo5) [reply SpherePacking/ModularForms/Delta.lean:462]: This theorem will be removed in #116 (since it is not of the form we need).
